US04060638
(Step A) 4-trifluoromethyl anthranilic acid ethyl ester
19.8 grams of 4-trifluoromethylanthranilic acid are dissolved in 350 ml of anhydrous ethanol and 300 ml of dry toluene. To this solution is added 21.8 grams of anhydrous p-toluenesulfonic acid. The solution is refluxed under an extractor containing a thimble of anhydrous magnesium sulfate for 2 weeks with periodic replacement of the drying agent. The solvent is then removed on a rotary evaporator. The residue is treated with 200 ml of 2N sodium hydroxide. The resultant mixture is extracted thrice with combined 75 ml portions of diethylether. The combined extracts are washed with 2N sodium hydroxide, then distilled water and finally brine. The organic solution is dried over anhydrous potassium carbonate. The drying agent is filtered off, and the solvent is removed on a rotary evaporator. The resultant oil is chromatographed on a filter column of silica gel with chloroform as the eluant. The first fractions contain 4-trifluoromethylanthranilic acid ethyl ester, which is recovered by crystallization. Melting Point: 42°-43° C.

reactant | 4-trifluoromethylanthranilic acid | 19.8 grams | FC(C=1C=C(C(C(=O)O)=CC1)N)(F)F | C8H6F3NO2
reactant | p-toluenesulfonic acid | 21.8 grams | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | magnesium sulfate | S(=O)(=O)([O-])[O-].[Mg+2]
solvent | ethanol | 350 ml | C(C)O | C2H6O
solvent | toluene | 300 ml | C1(=CC=CC=C1)C | C7H8
product | 4-trifluoromethyl anthranilic acid ethyl ester | C(C)OC(C=1C(N)=CC(=CC1)C(F)(F)F)=O | C10H10F3NO2
